US05872115
Step 4): LiAlH4 (0.14 g, 3.7 mmol) was added to a solution of 11-(4-hydroxyiminopiperidin-1-yl)-2-bromo-6,11-dihydrodibenz[b,e]oxepin (1.5 g, 3.7 mmol) in dry THF (50 ml) under nitrogen atmosphere. The reaction mixture was heated at 60°-70° C. for 3 hours. After cooled at 0° C., the reaction mixture was hydrolyzed with water and diluted with ether, then filtered. The filtrate was concentrated to give 11-(4-aminopiperidin-1-yl)-2-bromo-6,11-dihydrodibenz[b,e]oxepin (69.1%): mp 142°-144° C.

reactant | LiAlH4 | 3.7 mmol, 0.14 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 11-(4-hydroxyiminopiperidin-1-yl)-2-bromo-6,11-dihydrodibenz[b,e]oxepin | 3.7 mmol, 1.5 g | ON=C1CCN(CC1)C1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)Br | C19H19BrN2O2
reactant | water | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 11-(4-aminopiperidin-1-yl)-2-bromo-6,11-dihydrodibenz[b,e]oxepin | 69.1% | NC1CCN(CC1)C1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)Br | C19H21BrN2O
